US03976633
A solution of 10.0 g. (0.026 mol.) of 1,3-bis(2-cyano-5-trifluoromethylphenyl)triazene and 1.8 g. (0.037 mol.) of 50% sodium hydride in ether is added to a solution of 3.2 g. (0.028 mol.) of α-chloroacetyl chloride in 25 ml. of ether. The reaction mixture is stirred at 25° for one hour then filtered. The filtrate is concentrated under reduced pressure to give 3-(2-chloroacetyl)-1,3-bis(2-cyano-5-trifluoromethylphenyl)triazene as an oil which crystallizes upon trituration with isopropyl ether, m.p. 98°-100°.

reactant | 1,3-bis(2-cyano-5-trifluoromethylphenyl)triazene | 0.026 mol | C(#N)C1=C(C=C(C=C1)C(F)(F)F)N=NNC1=C(C=CC(=C1)C(F)(F)F)C#N | C16H7F6N5
reactant | sodium hydride | 0.037 mol | [H-].[Na+]
reactant | α-chloroacetyl chloride | 0.028 mol | ClCC(=O)Cl | C2H2Cl2O
solvent | ether | CCOCC | C4H10O
product | 3-(2-chloroacetyl)-1,3-bis(2-cyano-5-trifluoromethylphenyl)triazene | ClCC(=O)N(N=NC1=C(C=CC(=C1)C(F)(F)F)C#N)C1=C(C=CC(=C1)C(F)(F)F)C#N | C18H8ClF6N5O
